US05489593
1-[5,6-Dimethoxyindolyl-2-carbonyl]-4-[3-ethylamino-2-pyridinyl]piperazine (III)
Following the general procedure of EXAMPLE 16 and making non-critical variations but using 5,6-dimethoxyindole-2-carboxylic acid (0.50 g) and 1-[3-ethylamino-2-pyridinyl]piperazine (0.51 g), the title compound is obtained,

reactant | 5,6-dimethoxyindole-2-carboxylic acid | 0.50 g | COC=1C=C2C=C(NC2=CC1OC)C(=O)O | C11H11NO4
reactant | 1-[3-ethylamino-2-pyridinyl]piperazine | 0.51 g | C(C)NC=1C(=NC=CC1)N1CCNCC1 | C11H18N4
product | 1-[5,6-Dimethoxyindolyl-2-carbonyl]-4-[3-ethylamino-2-pyridinyl]piperazine | CCNC1=C(N=CC=C1)N2CCN(CC2)C(=O)C3=CC4=CC(=C(C=C4N3)OC)OC | C22H27N5O3
